US05369110
The starting material can be prepared, for example, as follows: A solution of 3.2 g of N-butyl-N-(2'-cyanobiphenyl-4-ylmethyl)-amine and 3.09 g of 2,2-diethylglutaric acid anhydride in 50 ml of dioxane is heated at 115° (bath temperature) for 6 hours. After concentration of the reaction mixture by evaporation, the residue is taken up in 100 ml of ethyl acetate, and the ethyl acetate phase is washed twice with 50 ml of water each time, dried over Na2SO4 and concentrated by evaporation in vacuo. Chromatography of the evaporation residue on silica gel 60 (40-63 μm) using CH2Cl2 /CH3OH (95:5) as eluant yields pure 4-carboxy-4-ethyl-hexanoic acid N-butyl-N-(2'-cyanobiphenyl-4-ylmethyl)-amide that has an Rf value of 0.72 [CH2Cl2 /CH3OH (4:1)].

reactant | N-butyl-N-(2'-cyanobiphenyl-4-ylmethyl)-amine | 3.2 g | C(CCC)NCC1=CC=C(C=C1)C1=C(C=CC=C1)C#N | C18H20N2
reactant | 2,2-diethylglutaric acid anhydride | 3.09 g | C(C)C1(C(=O)OC(CC1)=O)CC | C9H14O3
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 4-carboxy-4-ethyl-hexanoic acid N-butyl-N-(2'-cyanobiphenyl-4-ylmethyl)-amide | C(CCC)N(C(CCC(CC)(CC)C(=O)O)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N | C27H34N2O3
